US05376673
A. 4,5-Dichloro-N-(2-chloroethyl)-phthalimide
The compound was prepared as described in example 5A, starting from 14 g (0.065 mole) of 4,5-dichlorophthalic anhydride (Beilstein 4thEd. vol. 17 System No 6143) and 7.51 g (0.065 mole) of 2-chloroethylamine monohydrochloride. 10.5 g of the title product were obtained; mp=144°-145° C. (ethyl acetate)

reactant | 4,5-dichlorophthalic anhydride | 0.065 mole, 14 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | 2-chloroethylamine monohydrochloride | 0.065 mole, 7.51 g | Cl.ClCCN
product | 4,5-Dichloro-N-(2-chloroethyl)-phthalimide | 10.5 g | ClC=1C=C2C(C(=O)N(C2=O)CCCl)=CC1Cl | C10H6Cl3NO2
